US04596870
1-(2-Naphthoxy)methyl-5-chloropyrimidin-2-one
5-Chloropyrimidine-2-one hydrochloride (5 mmol) and triethylamine were stirred together in CH2Cl2 (30 ml). When all the solid had dissolved there was added a solution of 2-chloromethoxynaphthalene [see Preparation 13] (5 mmol) in CH2Cl2 (10 ml) with stirring at room temperature for 5 minutes. The mixture was stirred at room temperature for 24 hours before the solvent was distilled off. The residue was triturated with water, extracted into CHCl3, dried (MgSO4) and evaporated to give a mixture of the tite compound and the O-alkylated isomer in the ratio 4:1. Yield 1.27 g (86%). The O-isomer was removed from the product by extraction with ether followed by recrystallization of the N-isomer from acetone m.p. 168° C. 1H NMR (CDCl3 δ): 5.85 (s, CH2), 7.10-8.1 (m, 8H. Ar+H-4), 8.48 (H-6, d7 =4 Hz) IR (KBr, cm -1): 1675 (CO).

reactant | 5-Chloropyrimidine-2-one hydrochloride | 5 mmol | Cl.ClC=1C=NC(NC1)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-chloromethoxynaphthalene | 5 mmol | ClCOC1=CC2=CC=CC=C2C=C1 | C11H9ClO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(2-Naphthoxy)methyl-5-chloropyrimidin-2-one | C1=C(C=CC2=CC=CC=C12)OCN1C(N=CC(=C1)Cl)=O | C15H11ClN2O2
